### PR TITLE
Shallow_Separation_Logic: Add adequacy theorems

### PR DESCRIPTION
**Pull request by ike-mulder-aws**
Add adequacy theorems to the `Shallow_Separation_Logic` session. These show what properties on programs we can derive from proofs in our program logic.
Also included are some lemmas that show you can go 'the other way', i.e. prove that your program evaluates to a certain value, and derive a corresponding program logic statement.

*Issue #, if available:*

*Description of changes:*

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Shallow_Separation_Logic/Adequacy.thy [hunk 1]
```diff
@@ -0,0 +1,217 @@
...
+      and \<open>\<sigma> \<Turnstile> \<xi>\<close>
+      and \<open>c \<in> deep_evaluates_nondet_basic (yield_handler \<Gamma>) e \<sigma>\<close>
+    shows \<open>case c of
+            continuation.Success v \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<phi> v \<star> \<top>
+          | continuation.Return v \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<rho> v \<star> \<top>
+          | continuation.Abort a \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<theta> a \<star> \<top>
+          | continuation.Yield _ _ _ \<Rightarrow> False\<close>
+  \<comment> \<open>Evaluating with \<^term>\<open>deep_evaluates_nondet_basic\<close> will never terminate in \<^term>\<open>Yield\<close>\<close>
+  using assms
+  apply (clarsimp simp add: sstriple_def)
```
Comment (dominic-mulligan-aws) [inline Shallow_Separation_Logic/Adequacy.thy]: minor: these can be tidied up:

```
by (clarsimp simp add: sstriple_def) (cases c; simp add: deep_evaluate_basic_no_yield' atriple_rel_eval_value_adequacy atriple_rel_eval_return_adequacy atriple_rel_eval_abort_adequacy)
```

File: Shallow_Separation_Logic/Adequacy.thy [hunk 2]
```diff
@@ -0,0 +1,217 @@
...
+  assumes \<open>\<Gamma>; body \<Turnstile>\<^sub>F contract\<close>
+      and \<open>\<sigma> \<in> function_contract_pre contract\<close>
+      and \<open>c \<in> deep_evaluates_nondet_basic (yh \<Gamma>) (function_body body) \<sigma>\<close>
+    shows \<open>case c of
+            continuation.Success v \<sigma>' \<Rightarrow> \<sigma>' \<in> function_contract_post contract v
+          | continuation.Return v \<sigma>' \<Rightarrow> \<sigma>' \<in> function_contract_post contract v
+          | continuation.Abort a \<sigma>' \<Rightarrow> \<sigma>' \<in> function_contract_abort contract a
+          | continuation.Yield _ _ _ \<Rightarrow> False\<close>
+  using assms
+  apply (clarsimp simp add: satisfies_function_contract_def)
```
Comment (dominic-mulligan-aws) [inline Shallow_Separation_Logic/Adequacy.thy]: `auto` again?  Tidy this up, at the least.

File: Shallow_Separation_Logic/Adequacy.thy [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+lemma sstriple_from_evaluation:
+  assumes \<open>\<And> \<sigma>. \<sigma> \<Turnstile> \<xi> \<Longrightarrow> case evaluate e \<sigma> of
+            continuation.Success v \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<phi> v \<star> \<top>
+          | continuation.Return v \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<rho> v \<star> \<top>
+          | continuation.Abort a \<sigma>' \<Rightarrow> \<sigma>' \<Turnstile> \<theta> a \<star> \<top>
+          | continuation.Yield _ _ _ \<Rightarrow> False\<close>
+      and \<open>urust_is_local (yh \<Gamma>) e \<xi>\<close>
+    shows \<open>\<Gamma> ; \<xi> \<turnstile> e \<stileturn> \<phi> \<bowtie> \<rho> \<bowtie> \<theta>\<close>
+  using assms
+  apply (auto simp add: sstriple_def atriple_rel_def urust_eval_predicate_defs
```
Comment (dominic-mulligan-aws) [inline Shallow_Separation_Logic/Adequacy.thy]: `auto` should only appear at the end of a proof, not midway through.
